US06710058B2
2-Fluoro-5-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-N-hydroxy-benzamidine
A mixture of acetoxyhydroamic acid (27 mg, 2.5eq) and K2CO3 (98 mg, 5eq) in DMF/H2O (3:1, 4 ml) was stirred at room temperature for 20min. To this mixture was added 2-fluoro-5-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-benzonitrile (68 mg, 0.141 mmol) prepared as described under Ex. 58a above. The whole was stirred and heated at 110° C. for 18 h. The mixture was diluted with water and extracted 3× with EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated. Purification by reverse phase HPLC yielded the title compound (50 mg, 72%) 1H NMR (DMSO-d6) δ 8.11 (1H, d, J=8 Hz), 7.79 (1H, t, J=7,3 Hz), 7.71 (1H, t, J=7,73 Hz), 7.46 (2H, m), 7.37 (1H, d, J=11 Hz), 7.28 (1H, d, J=8 Hz), 7.18 (1H, t, J=9.5 Hz), 6.98 (1H, m), 6,85 (1H, m), 4.29 (1H, m), 3.72 (2H, t, J=6.2 Hz), 2.91 (3H, s), 2.28 (1H, m), 2.08 (2H, m), 1,84 (1H, m). MS 515.3 (M+H)+.

reactant | K2CO3 | 98 mg, 5eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-5-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-benzonitrile | 0.141 mmol, 68 mg | FC1=C(C#N)C=C(C=C1)NC1C(N(CCC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C25H21F2N3O3S
reactant | DMF H2O | 4 ml | CN(C)C=O.O
solvent | water | O | H2O
product | 2-Fluoro-5-[1-(3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-2-oxo-piperidin-3-ylamino]-N-hydroxy-benzamidine | 50 mg, 72% | FC1=C(C(=N)NO)C=C(C=C1)NC1C(N(CCC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C25H24F2N4O4S
